data/specific_train_final.csv
"C[C:20]1=[C:21](C(=C(C(C1O)O[O:10])C)C)O>>CC1=C([C:21]([C:20]2(C(C1O[O:10]2)O)C)O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][O:21][O].C(CO)CO[O:10]>>[H:20][O:10]OCCCO.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC1=C([CH:21]=[CH:20]C=C1O)C.[OH:10]>>CCC1=C([CH:21][CH:20](C=C1O)[OH:10])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C)(C)OC[CH2:10].[O:20][O]>>CC(C)(C)OC[CH2:10][O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(CO)[O:20][O:21]N=O>>CC(C)(CO)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1=CC2(C(C(C1[O:21][O:20][O])(OO2)C)O)C.[N+](=O)[O-]>>CC1=CC2(C(C(C1[O:21])(OO2)C)O)C.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[O][O:1][Cl:2]>>[O][O:1].[Cl:2] 1,2-1;1,2-2",Room Temperature,Initiation,homolyze
"C1=C(C)C=C(C)C=C1CC[O:20].[O-][N+:10]=O>>C1=C(C)C=C(C)C=C1CC[O:20][N+:10]([O-])=O 20-10,20; 10-10,20",Room Temperature,Termination,recombine
"CCC(C)(CO[N+](=O)[O-])[O:20][O:21]N=O>>CCC(C)(CO[N+](=O)[O-])[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[C:20]1(C=CC2(C([CH:21]1O)(O2)C)C)[O:10]>>C[C:20](=[O:10])C=CC1(C(O1)([CH:21]O)C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CC(CO[O:20])O.[N:10]=O>>CC(CO[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCC(CO[O:20])O.[N+](=O)([O-])[O:10]>>CCCCC(CO[O:20][O:10][N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:8][CH2:7][CH:6]([CH2:9][CH3:10])[O:5][O:4][O:3][N+:2](=[O:11])[O-:1]>>[CH3:8][CH2:7][CH:6]([CH2:9][CH3:10])[O:5][O:4][O:3].[N+:2](=[O:11])[O-:1] 3,2-2; 3,2-3",Room Temperature,Initiation,homolyze
"CC1=C(C)C=C(COO[O:20][N+:10]([O-])=O)C=C1>>CC2=C(C)C=C(COO[O:20])C=C2.[O-][N+:10]=O 10,20-10;10,20-20",Room Temperature,Initiation,homolyze
[CH3:1][C:2]1([CH:3]2[CH2:4][CH2:5][C:6]([CH:7]1[CH2:8]2)([CH2:9][O:10])[OH:11])[CH3:12].[N:13](=[O:14])[O:15]>>[CH3:1][C:2]1([CH:3]2[CH2:4][CH2:5][C:6]([CH:7]1[CH2:8]2)([CH2:9][O:10])[OH:11])[CH3:12].[N+:13](=[O:14])[O-:15] 13-15,Room Temperature,Propagation,ha resonance
"C[C:20](=[CH2:21])[CH:10]CCl>>C[C:20](=[CH:10]CCl)[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,resonance
"CC(CO)(C(COO)O)O[O:20].[N:10]=O.[O][O]>>CC(CO)(C(COO)O)O[O:20][N:10]=O.[O][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1(C=CC2C(C1(OO2)C)O)O[O:20].[N:10]=O>>CC1(C=CC2C(C1(OO2)C)O)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:10]1C(C=C(C(=C1C)C)O)O[N+](=O)[O-].[O:20][O]>>CC1=C([C:10](C(C=C1O)O[N+](=O)[O-])(C)[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C(Cl)(Cl)Cl)O[O:20].[N+](=O)([O-])[O:10]>>C(C(Cl)(Cl)Cl)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)OCCO[O:20].[N:10]=O>>CC(=O)OCCO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)C(C)(C)O[O:20].[N+](=O)([O-])[O:10]>>CC(C)C(C)(C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:5][C:4](=[CH:3][C:2](=[CH2:1])[C:7]([H:8])([H:9])[H:10])[H:6].[Cl:11]>>[H:5][C:4](=[CH:3][C:2]([CH2:1][Cl:11])[C:7]([H:8])([H:9])[H:10])[H:6] 11-11,1; 1,2-2; 1,2-11,1",Room Temperature,Propagation,addition
"C[CH:10]C(C)(C)O[N+](=O)[O-].[O:20][O]>>C[CH:10](C(C)(C)O[N+](=O)[O-])[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:12][O:11][CH:10]([CH:13][O:15][O:16][H:17])[C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[O:8][O:9][H:14]>>[H:17][O:16].[H:12][O:11][CH:10]([CH:13]=[O:15])[C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[O:8][O:9][H:14] 15,16-16;15,16-15,13; 13-13,15",Room Temperature,Propagation,retroaddition
"CCCCCCCCC(CC)O[O:20].[N:10]=O>>CCCCCCCCC(CC)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC12C=CC(C(C1(C)O)(OO2)C)OO[O:20][N+:21](=O)[O-]>>CC12C=CC(C(C1(C)O)(OO2)C)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCOC(C)[O:20][O:21][O].[N+](=O)[O-]>>CCOC(C)[O:20].[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C1=CC(C2C(C1OO2)O)[O:20][O:21]N=O>>C1=CC2C(C(C1[O:20])OO2)O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(C(C)O)[O:20][O:21][O]>>CCC(C(C)O)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"COC(CO)O[O:20].O[O:10]>>COC(CO)O[O:20][O:10]O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:6][O:5][O:4][CH2:3][CH:2]([C:7]([CH3:8])[O:9][O:10][H:11])[OH:1]>>[H:11][O:10].[H:6][O:5][O:4][CH2:3][CH:2]([C:7](=[O:9])[CH3:8])[OH:1] 9,10-10;9,10-7,9;7-7,9",Room Temperature,Propagation,retroaddition
"[CH3:7][CH2:6][CH2:5][CH:2]([CH3:1])[O:3][O:4].[N+:9](=[O:8])([O-:11])[O:10]>>[CH3:7][CH2:6][CH2:5][CH:2]([CH3:1])[O:3][O:4][O:10][N+:9](=[O:8])[O-:11] 4-4,10; 10-4,10",Room Temperature,Termination,recombine
